US08304446B2
N-[1-{[3-(aminosulfonyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide
To a solution of 5-chloro-N-[(5-chloro-2-thienyl)sulfonyl]-N-[4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide (for a preparation see Intermediate 10) (120 mg, 0.229 mmol), triphenylphosphine (120 mg, 0.458 mmol) and 3-(hydroxymethyl)benzenesulfonamide (85.8 mg, 0.458 mmol) in THF (3 mL) was added at rt diisopropyl azodicarboxylate (DIAD) (0.090 mL, 0.458 mmol). The resulting mixture was stirred at 65° C. for 7 hours. The mixture was partitioned between DCM (3 mL) and water (3 mL). The organic phase was separated and the aqueous layer was further extracted with 3 mL of DCM. The combined organic solutions were dried over an hydrophobic frit and evaporated under a nitrogen stream in a blowdown unit. The residue was loaded in dichloromethane on a silica cartridge (50 g) and purified by chromatography on Flashmaster using a 0-100% EtOAc in DCM over 40 min. The appropriate fractions were combined and evaporated in vacuo, and the residue was dissolved in methanol (3 mL) and treated with sodium hydroxyde (2M, 1.146 mL, 2.291 mmol). The resulting mixture was stirred at 60° C. for 2 hours. The solvents were evaporated under reduced pressure. The residue was dissolved in DCM (2 mL) and 3 mL of water was added, followed by dilute HCl solution until the pH of the aqueous layer was around 1. The organic phase was separated and the aqueous layer was further extracted with 2 mL of DCM. The combined organic solutions were dried over an hydrophobic frit and concentrated under a stream of nitrogen in a blowdown unit. The residue was dissolved in 1:1 MeOH:DMSO (1 mL) and purified by MDAP (supelcosil ABZ+Plus column) eluting with solvents A/B (A: Water+0.1% Formic acid, B: MeCN:Water 95:5+0.05% Formic acid). The solvent was removed under a stream of nitrogen in the Radleys blowdown apparatus to give the title compound, (51.6 mg, 22%). LCMS (System A) RT=1.02 min, ES+ve m/z 513/515 (M+H)+.

reactant | 5-chloro-N-[(5-chloro-2-thienyl)sulfonyl]-N-[4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide | ClC1=CC=C(S1)S(=O)(=O)N(C1=NNC2=CC=CC(=C12)OC)S(=O)(=O)C=1SC(=CC1)Cl | C16H11Cl2N3O5S4
reactant | triphenylphosphine | 0.458 mmol, 120 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(hydroxymethyl)benzenesulfonamide | 0.458 mmol, 85.8 mg | OCC=1C=C(C=CC1)S(=O)(=O)N | C7H9NO3S
reactant | diisopropyl azodicarboxylate | 0.458 mmol, 0.090 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-[1-{[3-(aminosulfonyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide | 51.6 mg, 22% | NS(=O)(=O)C=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)OC)NS(=O)(=O)C=1SC(=CC1)Cl | C19H17ClN4O5S3
